US05475022
3-(1,3-dioxolane-2-yl)-thiophene
A solution of 28.04 g (250 mmol) of 3-thiophenecarboxaldehyde, 20.2 g (330 mmole) of ethyleneglycol, 10 mg (0.05 mmole) of p-toluenesulfonic acid monohydrate and 25 ml of benzene was heated to reflux untill the calculated amount of water was removed via a Dean-Stark trap (5 hours). The reaction mixture was allowed to cool to room temperature and was washed with 30 ml of saturated NaHCO3 solution. The organic layer was dried over MgSO4 and the solvent was removed by evaporation to give the title compound as a clear colorles oil.

reactant | 3-thiophenecarboxaldehyde | 250 mmol, 28.04 g | S1C=C(C=C1)C=O | C5H4OS
reactant | ethyleneglycol | 330 mmole, 20.2 g | C(CO)O | C2H6O2
reactant | p-toluenesulfonic acid monohydrate | 0.05 mmole, 10 mg | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | benzene | 25 ml | C1=CC=CC=C1 | C6H6
solvent | water | O | H2O
product | 3-(1,3-dioxolane-2-yl)-thiophene | O1C(OCC1)C1=CSC=C1 | C7H8O2S
